US06455528B1
(2) N-(1-(4-Formylphenyl)ethyl)acetamide
To a solution of N-(1-phenylethyl)acetamide (5.0 g) in dichloromethane (100 ml) was added dropwise titanium tetrachloride (16.7 ml) at below 5° C. over 30 min. Thereto was added dropwise a solution of dichloromethyl methyl ether (14.1 ml) in dichloromethane (30 ml) solution at below 5° C. over 30 min. The mixture was stirred at 25° C. for 3 hr, at room temperature for 12 hr, and then at 25° C. for 3 hr, and poured into ice water (800 ml) and extracted with ethyl acetate. The extract was washed successively with a saturated sodium hydrogencarbonate solution (500 ml) and saturated brine (500 ml), and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (elution solvent; hexane:ethyl acetate=1:3) to give the title compound (0.35 g) as a colorless oil.

reactant | N-(1-phenylethyl)acetamide | 5.0 g | C1(=CC=CC=C1)C(C)NC(C)=O | C10H13NO
reactant | dichloromethyl methyl ether | 14.1 ml | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 16.7 ml | [Ti](Cl)(Cl)(Cl)Cl
product | N-(1-(4-Formylphenyl)ethyl)acetamide | 0.35 g | C(=O)C1=CC=C(C=C1)C(C)NC(C)=O | C11H13NO2
